US05981551
Preparation of 2,5-bis[(5-methyl-2-benzimidazolyl)imino]-3a,6a-bis(2-pyridyl)1,2,3,3a,4,5,6,6a-octahydroimidazo[4,5-d]imidazole
Following the procedure of Example 1, 2,2'-pyridil (603 mg, 2.84 mmol) and 5-methyl-2-guanidinobenzimidazole (489 mg, 2.58 mmol) in methanol (17 mL) was treated with a solution of sodium hydroxide (113.6 mg, 2.84 mmol) in 2.8 mL of water. The title compound was isolated as a grey powder (450 mg, 63% yield). mp: 290-291 ° C. (dec); 1H NMR (300 MHz, d6 -DMSO) δ 11.3 br s, NH, 2 H), 10.0 (br s, NH, 2 H), 8.5 (br s, NH, 2 H), 8.32 (d, J=4.2 Hz, 2 H), 7.54 (t, J=7.6 Hz, 2 H), 7.31 (d, J=7.6 Hz, 2 H), 7.16 (d, J=7.8 Hz, 2 H), 7.16-7.09 (m, 2 H), 7.09 (s, 2 H), 7.14 br s, 2 H), 6.86 (d, J=7.8, Hz, 2 H), 2.34 (s, 6 H); MS (ESI) m/z 555 [M+H]+.

reactant | 2,2'-pyridil | 2.84 mmol, 603 mg | C1=CC=NC(=C1)C(=O)C(=O)C2=CC=CC=N2 | C12H8N2O2
reactant | 5-methyl-2-guanidinobenzimidazole | 2.58 mmol, 489 mg | CC1=CC2=C(N=C(N2)NC(=N)N)C=C1 | C9H11N5
reactant | sodium hydroxide | 2.84 mmol, 113.6 mg | [OH-].[Na+]
solvent | methanol | 17 mL | CO | CH4O
solvent | water | 2.8 mL | O | H2O
product | 2,5-bis[(5-methyl-2-benzimidazolyl)imino]-3a,6a-bis(2-pyridyl)1,2,3,3a,4,5,6,6a-octahydroimidazo[4,5-d]imidazole | CC1=CC2=C(N=C(N2)N=C2NC3(C(NC(N3)=NC=3NC4=C(N3)C=CC(=C4)C)(N2)C2=NC=CC=C2)C2=NC=CC=C2)C=C1 | C30H26N12
